US06586617B1
Synthesis of N-(2-Bromoethyl)-4′-chloro-2′-nitro-p-toluenesulfonanilide (Compound No. 305)
To a suspension of sodium hydride (60%, 0.20 g (5.00 mmol)) in DMF (7.0 ml), 4′-chloro-2′-nitro-p-toluenesulfonanilide (1.20 g (3.67 mmol)) was added with stirring at room temperature. To the resulting mixture, after 15 minutes' stirring at room temperature, 1,2-dibromoethane (2.00 ml (23.2 mmol)) was added and the mixture was heated at 130° C. for one hour with stirring. The reaction mixture was cooled to room temperature, poured into water and extracted with diethyl ether. The extract was washed with 1% aqueous sodium hydroxide solution, a saturated sodium chloride solution successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to make the residue crystalline. Hexane was added to the crystals and the crystals were collected while washing to give 1.12 g (70%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 5.00 mmol, 0.20 g | [H-].[Na+]
reactant | 4′-chloro-2′-nitro-p-toluenesulfonanilide | 3.67 mmol, 1.20 g | ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C13H11ClN2O4S
reactant | 1,2-dibromoethane | 23.2 mmol, 2.00 ml | BrCCBr | C2H4Br2
reactant | water | O | H2O
solvent | DMF | 7.0 ml | CN(C)C=O | C3H7NO
product | N-(2-Bromoethyl)-4′-chloro-2′-nitro-p-toluenesulfonanilide | 1.12 g, 70% | BrCCN(C1=C(C=C(C=C1)Cl)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C | C15H14BrClN2O4S
